US05942532
A mixture of 3,4-diaminobenzonitrile (3.0 g, 0.023 mol) and the imidate in 500 mL of methanol was heated at 70° C. under nitrogen. The reaction was followed by TLC with 1:1 Hex/EtOAc. After 4 h the reaction solution was place under vac cuo to remove all solvents. The residue was recrystallized from ethyl acetate to afford 4.5 g (85%) of 2-(4-hydroxyphenyl)-1H-benzimidazole-5-nitrile.

reactant | 3,4-diaminobenzonitrile | 0.023 mol, 3.0 g | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methanol | 500 mL | CO | CH4O
product | 2-(4-hydroxyphenyl)-1H-benzimidazole-5-nitrile | 4.5 g, 85% | OC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C#N | C14H9N3O
